US05397798
A. N-[2-(1H-Imidazol-2-yl) ethyl]-2-nitrobenzenesulfonamide
A solution of 105 g (0.472 mol) of o-nitrobenzenesulfonyl chloride in 100 ml of dichloromethane was added slowly to a cold (0° C.) solution of 26.2 g (0.236 mol) of 2-(2-aminoethyl)imidazole in 300 ml of pyridine, under nitrogen. The reaction mixture was gradually warmed to room temperature and allowed to react overnight. When the reaction was complete, as determined by thin layer chromatography, the solution was reduced to dryness under reduced pressure. The resultant residue was dissolved in a water/methanol/5N sodium hydroxide solution and stirred for 3 hours. The solution was then acidified with concentrated hydrochloric acid and filtered to remove inorganic impurities. The methanol was removed under reduced pressure from the reaction mixture and the remaining solution was basicified by addition of aqueous sodium bicarbonate. The desired product was extracted from this solution with a solution consisting of ethyl acetate and a small amount of ethanol. The organic extract was washed with water, dried with anhydrous sodium sulfate and reduced to dryness under reduced pressure to provide an oil. This oil was then purified using standard purification techniques to provide 37.7 g of the desired subtitled intermediate.

reactant | o-nitrobenzenesulfonyl chloride | 0.472 mol, 105 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 2-(2-aminoethyl)imidazole | 0.236 mol, 26.2 g | NCCC=1NC=CN1 | C5H9N3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
solvent | water methanol | 5N | O.CO
product | N-[2-(1H-Imidazol-2-yl) ethyl]-2-nitrobenzenesulfonamide | 37.7 g | N1C(=NC=C1)CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C11H12N4O4S
